US04831151
380 mg (2 mmol) of triethyloxonium tetrafluoroborate are dissolved in 15 ml of methylene chloride. 326 mg (2 mmol) of p-dimethylaminoacetophenone are added thereto at -15°. After 5 minutes there are added thereto at the same temperature 162 mg (1 mmol) of 1,3-diamino-2-ethyl-imidazolium chloride and the mixture is stirred at -10° for 1 hour and at 0° for 2 hours. After the addition of a small amount of methanol the mixture is evaporated and the residue is placed on a column loaded with 10 g of silica gel. The product is eluted with chloroform/methanol (87:13 parts by weight) and crystallized using ether. The crystallizate is dissolved in 80 ml of water, placed on a column loaded with ion exchanger Amberlite IRA 400 (chloride) and elution is carried out with water. The eluate is evaporated and the residue is crystallized from ethanol/water. There is obtained 3-amino-1-[[p-(dimethylamino)-α-methylbenzylidene]amino]-2 -ethylimidazolium chloride of melting point 223°-225°.

reactant | triethyloxonium tetrafluoroborate | 2 mmol, 380 mg | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | p-dimethylaminoacetophenone | 2 mmol, 326 mg | CN(C1=CC=C(C=C1)C(C)=O)C | C10H13NO
reactant | 1,3-diamino-2-ethyl-imidazolium chloride | 1 mmol, 162 mg | [Cl-].N[N+]1=C(N(C=C1)N)CC
reactant | methanol | CO | CH4O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-amino-1-[[p-(dimethylamino)-α-methylbenzylidene]amino]-2 -ethylimidazolium chloride | [Cl-].NN1C(=[N+](C=C1)N=C(C1=CC=C(C=C1)N(C)C)C)CC | InChI=1S/C15H22N5.ClH/c1-5-15-19(16)10-11-20(15)17-12(2)13-6-8-14(9-7-13)18(3)4;/h6-11H,5,16H2,1-4H3;1H/q+1;/p-1
